US07834008B2
Under a stream of nitrogen N,N′-carbonyldiimidazole (3.62 g, 22.3 mmol) followed by piperidine (3.74 g, 43.9 mmol) is added to a solution of 1-(tert-butoxycarbonyl)-4-phenyl-4-piperidinecarboxylic acid (3.40 g, 11.1 mmol) in dry THF (50 mL). The mixture is heated to reflux 18 h, then cooled to ambient temperature and concentrated by means of evaporation. The remanence is redissolved in ethyl acetate (150 mL) and successively washed with NaHCO3 (50 mL, aq, sat.), dilute HCl (50 mL) at pH 3, brine (50 mL), then dried (MgSO4) and evaporated to dryness. This intermediate is purified by silica gel chromatography eluting with ethyl acetate-heptane-triethylamine (40:50:10) to furnish 1.01 g (24%) of 4-phenyl-4-(piperidine-1-carbonyl)-piperidine-1-carboxylic acid tert-butyl ester as a white crystalline solid. This is dissolved in a mixture of MeOH (10 mL) and THF (10 mL), then 2M HCl in MeOH (5 mL) is added and the mixture is stirred at ambient temperature for 2 h. Water (20 mL) is added and pH is adjusted to pH 12 by addition of 2M NaOH. The organic phase is separated and the aqueous phase is extracted with ethyl acetate (30 mL). Combined organic fractions are dried (MgSO4) and concentrated in vacuo to furnish 0.47 g (63%) of (4-Phenyl-piperidine-4-yl)-piperidin-1-yl-methanone. LC/MS (m/z) 273.1 (M+H+); tR=1.65 mm.

reactant | nitrogen N,N′-carbonyldiimidazole | 22.3 mmol, 3.62 g | N#N.C1=CN(C=N1)C(=O)N2C=CN=C2
reactant | piperidine | 43.9 mmol, 3.74 g | N1CCCCC1 | C5H11N
reactant | 1-(tert-butoxycarbonyl)-4-phenyl-4-piperidinecarboxylic acid | 11.1 mmol, 3.40 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)O)C1=CC=CC=C1 | C17H23NO4
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 4-phenyl-4-(piperidine-1-carbonyl)-piperidine-1-carboxylic acid tert-butyl ester | 1.01 g, 24% | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)N1CCCCC1)C1=CC=CC=C1 | C22H32N2O3
